US06464731B1
Synthesis of Diethyl(4-fluoro-3-nitrophenyl)amine.
197 ml (1.5 mol) of diethyl sulphate were run, over 2 hours, with stirring, into a mixture, heated at 65° C., comprising 63.0 g (0.5 mol) of 4-fluoro-3-nitrophenylamine (RN 364-76-1) and 110 g of calcium carbonate in 150 ml of dimethylformamide and then the mixture was heated at 85° C.-90° C. for 2 hours.

reactant | diethyl sulphate | 1.5 mol, 197 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | 4-fluoro-3-nitrophenylamine | 0.5 mol, 63.0 g | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | calcium carbonate | 110 g | C([O-])([O-])=O.[Ca+2]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Diethyl(4-fluoro-3-nitrophenyl)amine | C(C)N(C1=CC(=C(C=C1)F)[N+](=O)[O-])CC | C10H13FN2O2
